US04000193
a. 5-(N,N-Dibenzylglycyl)-2-(2,3-dihydroxypropoxy)benzamide
3-Chloropropane-1,2-diol (2.65 g) was added to a refluxing suspension of 5-(N,N-dibenzylglycyl)salicylamide sodium salt (10.0 g) in toluene (100 ml) and heating was continued for 6 hours. The mixture was cooled and filtered and the filtrate was evaporated. The residue was crystallised twice from ethanol to give the required product m.p. 169°-173°.

reactant | 3-Chloropropane-1,2-diol | 2.65 g | ClCC(CO)O | C3H7ClO2
reactant | 5-(N,N-dibenzylglycyl)salicylamide sodium salt | 10.0 g | [Na+].C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C(C(=O)[NH-])=C1)O)CC1=CC=CC=C1
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(N,N-Dibenzylglycyl)-2-(2,3-dihydroxypropoxy)benzamide | C(C1=CC=CC=C1)N(CC(=O)C=1C=CC(=C(C(=O)N)C1)OCC(CO)O)CC1=CC=CC=C1 | C26H28N2O5
